US09353082B2
N-methyl-N-phenyl-1H-benzo[d]imidazole-1-carboxamide (acylation)
To a stirred solution of 1H-benzo[d]imidazole (354 mg, 3 mmol) in tetrahydrofuran (15 ml) was added pyridine (0.367 ml, 4.50 mmol) followed by addition of methyl(phenyl)carbamic chloride (534 mg, 3.15 mmol). The reaction was heated to 80° C. for 20 hours. THF was removed by vacuum, the residue was partitioned between DCM and water. The organic phase was dried over MgSO4 and filtered. After evaporation the crude product was chromatographed in petroleum ether:EtOAc=2:1.

reactant | 1H-benzo[d]imidazole | 3 mmol, 354 mg | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | pyridine | 4.50 mmol, 0.367 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl(phenyl)carbamic chloride | 3.15 mmol, 534 mg | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | N-methyl-N-phenyl-1H-benzo[d]imidazole-1-carboxamide | CN(C(=O)N1C=NC2=C1C=CC=C2)C2=CC=CC=C2 | C15H13N3O
